US05147893
Methyl [[2-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]cyclohexyl]sulfonyl]acetate
2,6-bis(1,1-Dimethylethyl)-4-mercaptophenol (3.2 g, 0.013 mole) was added to a solution of methyl [(2-chlorocyclohexyl)sulfonyl]acetate (0.85 g, 0.0033 mole) in triethylamine (13 ml) and the reaction mixture was refluxed for 5 hours. The reaction mixture was cooled to room temperature and poured into 1N hydrochloric acid (150 ml). The mixture was extracted twice with 50 ml of diethyl ether, then washed twice with 20 ml of 1.5N hydrochloric acid and once with brine (10 ml), dried over anhydrous magnesium sulfate, filtered and concentrated in a rotary evaporator to give the crude product as an oil. The product was purified by silica gel chromatography to give a solid m.p. ca. 105° C. The structure was supported by NMR, and infrared spectroscopy and elemental analysis.

reactant | 2,6-bis(1,1-Dimethylethyl)-4-mercaptophenol | 0.013 mole, 3.2 g | CC(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | methyl [(2-chlorocyclohexyl)sulfonyl]acetate | 0.0033 mole, 0.85 g | ClC1C(CCCC1)S(=O)(=O)CC(=O)OC | C9H15ClO4S
reactant | hydrochloric acid | 1N, 150 ml | Cl | ClH
solvent | triethylamine | 13 ml | C(C)N(CC)CC | C6H15N
product | Methyl [[2-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]cyclohexyl]sulfonyl]acetate | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC1C(CCCC1)S(=O)(=O)CC(=O)OC | C23H36O5S2
